US07705004B2
To a solution of 2-chloro-N-(1H-indazol-6-yl)-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.45 g, 0.8 mmol) in dimethylformamide (2.0 mL) was added tetravinyltin (0.29 mL, 1.6 mmol) and tetrakis(triphenylphosphine)palladium(0) (Pd(PPh3)4) (0.092 g, 0.08 mmol). After degassing, the mixture was heated at 60° C. for 15 h. before it was diluted with EtOAc, and washed sequentially with Sat. NaHCO3 and brine. The organic extract was dried over Na2SO4 and concentrated to give a crude residue. Purification by flash column chromatography (Hexane/EtOAc=1:1) gave 2-chloro-N-(1H-indazol-6-yl)-5-vinyl-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.11 g).

reactant | 2-chloro-N-(1H-indazol-6-yl)-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.8 mmol, 0.45 g | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NNC1=C2 | C20H14ClIN6O2S
reactant | tetravinyltin | 1.6 mmol, 0.29 mL | C(=C)[Sn](C=C)(C=C)C=C
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.08 mmol, 0.092 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-N-(1H-indazol-6-yl)-5-vinyl-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.11 g | ClC=1N=C(C2=C(N1)N(C=C2C=C)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NNC1=C2 | C22H17ClN6O2S
